US07291616B2
A mixture of methyl 2-amino-5-chlorobenzoate (1.0 g, 5.4 mmol), iodomethane (0.75 ml, 12.0 mmol), potassium carbonate (1.7 g, 12.4 mmol), and acetonitrile (20 ml) was stirred for 48 hours. The mixture was filtered through a pad of celite under suction and the filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography on silica eluting with ethyl acetate-hexane (1:19) to provide 5-chloro-2-methylaminobenzoic acid methyl ester (137 mg, 13% yield) followed by 5-chloro-2-dimethylaminobenzoic acid methyl ester (809 mg, 70% yield).

reactant | methyl 2-amino-5-chlorobenzoate | 5.4 mmol, 1.0 g | NC1=C(C(=O)OC)C=C(C=C1)Cl | C8H8ClNO2
reactant | iodomethane | 12.0 mmol, 0.75 ml | IC | CH3I
reactant | potassium carbonate | 12.4 mmol, 1.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 5-chloro-2-methylaminobenzoic acid methyl ester | 137 mg, 13% yield | COC(C1=C(C=CC(=C1)Cl)NC)=O | C9H10ClNO2
